US08710245B2
(g) Synthesis of 1-(6,7-dihydro-4H-thieno[3,2-c]pyran-4-yl)-N-methylcyclohexanamine
To a solution of ethyl 1-(6,7-dihydro-4H-thieno[3,2-c]pyran-4-yl)cyclopropylcarbamate (1.1 g, 4.1 mmol) in dry THF (20 mL) at 0° C. under N2 was added LiAlH4 (152 mg, 4.0 mmol) in one portion. The resulting mixture was refluxed for 2 h and then cooled to room temperature. Water (5 mL) was added to quench the reaction. The reaction mixture was filtered and the filtrate was extracted with EtOAc (3×75 mL). The combined extract was washed with brine, and dried over anhydrous Na2SO4. After filtration and concentration, the crude product was purified by column chromatography to give the title compound (700 mg, 84%).

reactant | ethyl 1-(6,7-dihydro-4H-thieno[3,2-c]pyran-4-yl)cyclopropylcarbamate | 4.1 mmol, 1.1 g | S1C=CC=2C(OCCC21)C2(CC2)NC(OCC)=O | C13H17NO3S
reactant | LiAlH4 | 4.0 mmol, 152 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Water | 5 mL | O | H2O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(6,7-dihydro-4H-thieno[3,2-c]pyran-4-yl)-N-methylcyclohexanamine | 700 mg, 84% | S1C=CC=2C(OCCC21)C2(CCCCC2)NC | C14H21NOS
